US06187923B1
To a mixture of 10.0 g (66.0 mmol) of 3-methylanthranilic acid in 60 mL of 1,4-dioxane was slowly added 100 mL (193 mmol) of a 1.93 molar solution of phosgene in toluene, at room temperature. The mixture was stirred overnight. The mixture was concentrated in vacuo to yield a residue which was triturated with ethyl acetate-hexane (1:4), filtered, washed with hexane and dried to afford 11.66 g (99.5%) of the 3-methylisatoic anhydride as an off white solid. MS (Cl mode) m/z 160 (M-18, 100%), 178 (M+H, 90%).

reactant | 3-methylanthranilic acid | 66.0 mmol, 10.0 g | CC1=C(C(C(=O)O)=CC=C1)N | C8H9NO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methylisatoic anhydride | 11.66 g, 99.5% | CC1=C2C(C(=O)OC(N2)=O)=CC=C1 | C9H7NO3
